US08877772B2
Preparation of 4-{5-[4-(4-acetyl-piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide
To a solution of 4-{5-[4-(piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide, hydrochloride salt (19 mg, 0.041 mmol) in MeOH (2 ml) was added triethylamine (400 μl, 2.88 mmol) and acetic anhydride (100 μl, 1.06 mmol). The mixture was stirred for 1 hr at room temperature. EtOAc was added and washed with saturated aqu. NaHCO3, water, brine and dried and evacuated. Purification on silica gel employing 0-10% MeOH:DCM provided 4.7 mg (25%) of the title compound. MS ESI (m/z): 468.3 (M+1)+, calc. 467.

reactant | 4-{5-[4-(piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide, hydrochloride salt | 0.041 mmol, 19 mg | Cl.N1(CCNCC1)C(=O)C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C(=O)N)C=C2
reactant | triethylamine | 2.88 mmol, 400 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.06 mmol, 100 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 ml | CO | CH4O
product | 4-{5-[4-(4-acetyl-piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide | 4.7 mg, 25% | C(C)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C(=O)N)C=C2 | C27H25N5O3
